data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8527,"CCOC(=O)C(C(C)=O)[C:1](C(=O)OCC)([H:2])[C:3](C)=[NH2+:4].CO.N.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4876,"CCC(=O)O[C+:1]1C=CC=C[C:2]1(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,838,"CC[Si]1(CC)OC(C2=CC=CC=C2)CC(O[Si](C)(C)C)C1[CH+]C[Si:1](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,7004,"CC1C(C)(C)C2C[C:1]3(C(C(=O)[O-])CC[C+:2]13)[CH2:3]C2.CC1C2CCC(C(=O)O)C23CCC(C3)C1(C)C|((1, 3), 2)"
train,pmechdb_split_0,0,8108,"C1CC[NH+:1]([H:2])CC1.C=C1C2=CC=CC=C2C2=C1C=CC=C2.CC(NC(=O)[O-:3])C([NH3+])=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9682,"CCC(C)C(CCC1CCCC1)C(=O)[O-].CCC1=C(C)C=CC([CH:1](C(C)C)[OH2+:2])=C1.[Br-].[Li+]|((1, 2), 2)"
train,pmechdb_split_0,0,5336,"CCOC(=O)[C:1](OCC)=[O:2].C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2055,"CC(C)[C:1]1([H:2])OC(S(=O)(=O)O)=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9971,"CCC(=O)O[C:1]1=[CH:2]C=CC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,6604,"CC(C)C.COC1=CC=C(COCC(C[C:1]2([Li:2])SCCCS2)O[Si](C)(C)C(C)(C)C)C=C1.COC1=CC=C(COCC2[CH2:3][O:4]2)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4160,"C[O:1][CH:2]=[S:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9124,"CCOC[CH:1]=[C:2](OC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1583,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(OC)C=C([CH:1]([OH2+:2])[O:3]CCCO)C(Br)=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5974,"CSSCCCC[S:1][H:2].C[S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8475,"N#C[C:1](N)([H:2])[C:3](C#N)=[NH:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3617,"C1=CC=C(CCC=[O:1])C=C1.C=C(CC(OCC1=CC=C(OC)C=C1)C(C)C)O[B:2](CCCC)CCCC.CC[NH+](C(C)C)C(C)C.O=S(=O)([O-])C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,7009,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CC1CC(SC2=CC=CC=C2)C2(CCOCC2)[O+:2]1[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5249,"C=CC(=O)[NH:1][H:2].C[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,683,"CC(C)[C:1]1([H:2])C2=C(C=CC(C#N)=C2)C=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4943,"CCC1C=CC(O)C(CCCC#N)C1C(=O)N[NH+:1](C)[H:2].O=C([O][K])[O-:3].[I-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7864,"C[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,959,"CC(N)C1=CC=CC=C1.CC1=CC=CC=C1.CCOC(=O)[CH:1]([NH:2]C(C)C1=CC=CC=C1)[OH:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5944,"C1CC[NH:1]C1.CN1C2CCCC1C[C:2](=[O+:3][Ti-]([Cl])([Cl])([Cl])[Cl])C2|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3268,"CC(C)=O.CC(C)CC1CCC2C3CC=C4CC([O][Al-]([O]C(C)C)([O]C(C)C)[O:1]C(C)C)CCC4(C)C3CCC12C.CC(C)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2753,"CC(C)CC(C(=O)NCC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,996,"CCOC(=O)[C:1](C)([H:2])[C:3](C)=[O:4].COC1=C2N=CC=C(C3=C(F)C=CC=C3)C2=C([N+]#N)C=C1.[Cl-].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2946,"C1=CC2CC1C[C:1]2=[O:2].N#[N+][CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8849,"C1=CC=C([CH:1]=[CH:2][CH:3]=[O:4])C=C1.O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,478,"CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-:1].CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+:2]#[C:3]C(O)C(C)NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7365,"O=S(=O)(O)[O:1][H:2].OCCCCC(O)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6504,"CCN[C:1](CC#N)([NH2+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3433,"O=S(=O)(O)[O-:1].OCC1CCC[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8179,"O=S(=O)(O)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2886,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)(C(N)(OCC)[OH+:1][H:2])C1CC(C)=O.[Cl-].[OH2:3].[OH3+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3253,"CC(=O)OC1CC(CCO[Si](C)(C)C(C)(C)C)O[C:1](=[O:2])[CH:3]1[H:4].C[O-:5].[Li+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3585,"CC(=O)[O-].CCOC(=O)C=CC1=C([CH:1]=[O+:2]CCCO)C(F)=CC=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,706,"CC(=O)[O:1][C:2](C#N)(CCC=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5745,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C3CCCCC3)CCC2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1399,"CC[O-:1].C[CH:2]([H:3])[C:4](C)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,48,"C[CH:1]=[O+:2]C.[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4748,"C1=CC2=C(C=C1)N([O:1][H:2])N=N2.C[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2021,"CCC1(C)C[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5053,"CN1C2=CC=C(C(O)O[OH:1])C=C2C2=C1C=CC=C2.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3771,"CCCC1CC2=C(C(O)=C(OC)C=C2)C2([O-:1])CC(=O)CCC12.O.O=C[O][Na].[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
